US05763458
A mixture of 5'-chloro-2',3'-ethylenedioxy-4'-(methylcarbonylamino)-acetophenone (152 mg, 0.56 mmol) and sodium hydroxide (4N, 1.4 mL, 5.6 mmol) in 5 mL of methanol was heated at reflux for 3.5 hours. The mixture was concentrated by rotary evaporation and the residue was stirred into water. The residue was isolated by filtration and washed with water. Drying gave 4'-amino-5'-chloro-2',3'-ethylenedioxyacetophenone (95 mg, 0.41 mmol), m.p. 133°-136° C.

reactant | 5'-chloro-2',3'-ethylenedioxy-4'-(methylcarbonylamino)-acetophenone | 0.56 mmol, 152 mg | ClC=1C(=C2C(=C(C1)C(C)=O)OCCO2)NC(=O)C | C12H12ClNO4
reactant | sodium hydroxide | 5.6 mmol, 4N, 1.4 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
product | 4'-amino-5'-chloro-2',3'-ethylenedioxyacetophenone | 0.41 mmol, 95 mg | NC1=C2C(=C(C=C1Cl)C(C)=O)OCCO2 | C10H10ClNO3
